US04569801
A solution of 16.2 g (0.045 mol) of N-butyl-N-heptyl-α-methyl-4-nitrobenzenebutanamine in 182 ml of ethanol was hydrogenated at room temperature overnight in the presence of 1.6 g of 5% palladium-on-carbon. Hydrogen uptake observed was 74% of theoretical. The reaction mixture was filtered through Celite and the filtrate was evaporated under reduced pressure. The resulting material indicated the presence of one spot by thin-layer chromatography and afforded 13.56 g of 4-amino-N-butyl-N-heptyl-α-methylbenzenebutanamine as an oil.

reactant | N-butyl-N-heptyl-α-methyl-4-nitrobenzenebutanamine | 0.045 mol, 16.2 g | C(CCC)N(C(CCCC1=CC=C(C=C1)[N+](=O)[O-])C)CCCCCCC | C22H38N2O2
reactant | Hydrogen | [H][H] | H2
solvent | ethanol | 182 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 1.6 g | [Pd] | Pd
product | 4-amino-N-butyl-N-heptyl-α-methylbenzenebutanamine | 13.56 g | NC1=CC=C(C=C1)CCCC(N(CCCCCCC)CCCC)C | C22H40N2
